US06599900B2
b) (5RS)-9-(3,5-bis-trifluoromethyl-benzoyl)-5-(3-chloro-phenyl)-1-oxa-3,9-diaza-spiro[5.5]undecan-2-one
To a solution of 1.48 g (3 mmol) {4-[2-amino-1-(3-chloro-phenyl)-ethyl]-4-hydroxy-piperidin-1-yl}-(3,5-bis-trifluoromethyl-phenyl)-methanone in 30 ml of tetrahydrofuran 1.46 g (9 mmol)1,1′-carbonyl-diimidazole was added and the mixture was stirred over night at room temperature under argon. Water (15 ml) was added, the organic layer was separated, washed twice with a solution of hydrochloric acid (1 M), dried and evaporated. The residue was purified by flash column chromatography (SiO2, ethyl acetate) to yield 1.08 g (69%) of the title compound.

reactant | {4-[2-amino-1-(3-chloro-phenyl)-ethyl]-4-hydroxy-piperidin-1-yl}-(3,5-bis-trifluoromethyl-phenyl)-methanone | 3 mmol, 1.48 g | NCC(C1=CC(=CC=C1)Cl)C1(CCN(CC1)C(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)O | C22H21ClF6N2O2
reactant | tetrahydrofuran | 9 mmol, 30 ml, 1.46 g | O1CCCC1 | C4H8O
solvent | Water | 15 ml | O | H2O
product | (5RS)-9-(3,5-bis-trifluoromethyl-benzoyl)-5-(3-chloro-phenyl)-1-oxa-3,9-diaza-spiro[5.5]undecan-2-one | 1.08 g, 69% | FC(C=1C=C(C(=O)N2CCC3(C(CNC(O3)=O)C3=CC(=CC=C3)Cl)CC2)C=C(C1)C(F)(F)F)(F)F | C23H19ClF6N2O3
